US04226948
2-Trichloromethyl-1, 3-oxazolidine
To a 2 liter 3-necked flask equipped with a stirrer, Dean-Stark trap, a condenser and dropping funnel were added 214 g (3.51 moles) ethanolamine and 450 g. toluene. Then 273 g (4.55 moles) of glacial acetic acid were added slowly to keep the temperature (cooling if necessary) at 30°-45° C. Then 568 g (3.85 moles) of chloral were added at 40°-50° C. The reaction mixture was refluxed to remove water and, when complete, the temperature increased to 115°-120° C. The reaction mixture was cooled in an ice bath and the product precipitated after standing for several hours to give 189.5 g (28.5%) m.p. 72°-74° C. The filtrate was washed with 5.0 moles of 20% sodium hydroxide and more product precipitated. Filtration and drying yielded 228.5 g (34.3%), m.p. 73°-75° C. The toluene layer was washed with water and evaporated to give a solid. Washing with water and filtration yielded upon drying 328 g. (49.2%), m.p. 62°-72° C. for a total yield of 556.0 g (83.5%). The analysis was consistent with the assigned structure.

reactant | ethanolamine | 3.51 moles, 214 g | C(O)CN | C2H7NO
reactant | acetic acid | 4.55 moles, 273 g | C(C)(=O)O | C2H4O2
reactant | chloral | 3.85 moles, 568 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | sodium hydroxide | 5.0 moles | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Trichloromethyl-1, 3-oxazolidine | ClC(C1OCCN1)(Cl)Cl | C4H6Cl3NO
